US05484804
0.46 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide and 0.34 cm3 of diisopropylamine are added to a solution of 0.9 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydroisoindole-4,5-diol hydrochloride, 0.4 g of 3-indolylacetic acid and 20 mg of 1-hydroxybenzotriazole hydrate in 90 cm3 of dichloromethane, cooled to 0° C. The mixture is stirred at room temperature for 15 hours, acidified with 0.1N HCl and then taken up in an aqueous saturated solution of sodium chloride. The organic phase is decanted, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The foam obtained is recrystallized from 10 cm3 of boiling acetonitrile. 0.85 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-(3-indolyl)acetylperhydroisoindole-4,5-diol is obtained in the form of a white solid which melts at 266° C.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.46 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | diisopropylamine | 0.34 cm3 | C(C)(C)NC(C)C | C6H15N
reactant | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydroisoindole-4,5-diol hydrochloride | 0.9 g | Cl.C1(=CC=CC=C1)C1(CC(C(C2CNCC12)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1
reactant | 3-indolylacetic acid | 0.4 g | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | HCl | 0.1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 90 cm3 | ClCCl | CH2Cl2
catalyst | 1-hydroxybenzotriazole hydrate | 20 mg | O.ON1N=NC2=C1C=CC=C2
product | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-(3-indolyl)acetylperhydroisoindole-4,5-diol | 0.85 g | C1(=CC=CC=C1)C1(CC(C(C2CNC(C12)C(CC1=CNC2=CC=CC=C12)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C37H36N2O4
